US09382188B2
step 2) ethyl 3-cyclopropyl-3-(3-(((6-(5-ethoxy-2-fluorophenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate
Under a nitrogen atmosphere, to a solution of ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-hydroxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate (50 mg) in DMF (989 μL) were added cesium carbonate (97 mg) and iodoethane (12.0 μL) at 0° C., and the mixture was stirred at room temperature for 20 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (49.8 mg) as a colorless oil.

reactant | ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-hydroxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate | 50 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)O)F | C31H36FNO4
reactant | cesium carbonate | 97 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 12.0 μL | ICC | C2H5I
reactant | Water | O | H2O
solvent | DMF | 989 μL | CN(C)C=O | C3H7NO
product | ethyl 3-cyclopropyl-3-(3-(((6-(5-ethoxy-2-fluorophenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate | 49.8 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)OCC)F | C33H40FNO4
